US06002008
N-{3-Cyano-4-[(3-cyanophenyl)amino]-6-quinolinyl}-2-propenamide
Dissolved 729 mg (2.56 mmol) 6-amino-4[(3-cyanophenyl)amino]-3-quinolinecarbonitrile in 2 ml hot DMF, added 12 ml THF and cooled to 0° C. under N2. Added 392 μl (2.81 mmol) triethylamine and 234 g (2.81 mmol) acryloyl chloride. Removed ice bath after 15 minutes and stripped solvent at 2 hours. Washed residue with water and collected solids. Recrystallized from ethyl acetate and dried in vacuo, giving 318 mg of yellow solid: mass spectrum (electrospray m/e): M+H=340.1.

reactant | 6-amino-4[(3-cyanophenyl)amino]-3-quinolinecarbonitrile | 2.56 mmol, 729 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C#N | C17H11N5
reactant | THF | 12 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 2.81 mmol, 392 μl | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 2.81 mmol, 234 g | C(C=C)(=O)Cl | C3H3ClO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-{3-Cyano-4-[(3-cyanophenyl)amino]-6-quinolinyl}-2-propenamide | 318 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)C#N)NC(C=C)=O | C20H13N5O
